US05017229
A 0.4%(w/w) solution of HA in water was prepared. The pH of this solution was adjusted to between 4.3 and 4.75 by addition of acid. To each 100 ml of this solution was added 0.76 g of EDC with stirring until the EDC had completely dissolved. To each 100 ml of the HA/EDC solution was added 0.20 g of lysine methyl ester (LME) with stirring until the LME had completely dissolved. The addition of HA, EDC, and LME was conducted at room temperature; once the final HA/EDC/LME solution had been formed, it was stored at 4° C. until needed.

reactant | EDC | 0.76 g
reactant | lysine methyl ester | 0.20 g | COC([C@@H](N)CCCCN)=O | C7H16N2O2
solvent | water | O | H2O
product | EDC LME | C(CCl)Cl.COC([C@@H](N)CCCCN)=O | InChI=1S/C7H16N2O2.C2H4Cl2/c1-11-7(10)6(9)4-2-3-5-8;3-1-2-4/h6H,2-5,8-9H2,1H3;1-2H2/t6-;/m0./s1
